US07772246B2
Preparation of 6-bromo-2,3-dimethylimidazo[1,2-a]pyrimidine (B-9-4)
To a solution of 5-bromopyrimidin-2-amine (400 g, 2.2 mol) in i-PrOH (2 L) and DMF (500 mL) was added compound B-9-2 (400 g, 2.6 mol), the resulting mixture was stirred at 100° C. for 20 hrs. TLC (petroleum ether:ethyl acetate=1:1) showed the reaction was complete, the reaction mixture was quenched by addition of aqueous Na2CO3 and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (petroleum ether:ethyl acetate=1:1) to afford compound B-9-4 (12.0 g, 2.4%) as a yellow solid.

reactant | 5-bromopyrimidin-2-amine | 2.2 mol, 400 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | i-PrOH | 2 L | CC(C)O | C3H8O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 6-bromo-2,3-dimethylimidazo[1,2-a]pyrimidine | BrC=1C=NC=2N(C1)C(=C(N2)C)C | C8H8BrN3
